US05863947
2-(4-Carboxy-2-methylphenyl)glycine
A stirred mixture of 5-(4-cyano-2-methylphenyl)hydantoin (1.1 g, 5.2 mmol) in aqueous sodium hydroxide (2M, 12 ml) was heated to 120° C. for 17 hours in a PTFE lined stainless steel sealed reaction vessel. The cooled mixture was acidified with glacial acetic acid (1.4 ml) and chromatographed on ion exchange (Dowex 50×8-100 resin). The column was eluted sequentially with water, tetrahydrofuran-water (1:1), water and 10% pyridine in water. Fractions collected from the pyridine-water elution were combined and evaporated to dryness, redissolved in water and freeze-dried to give the title compound as a white powder, m.p. >250° C.

reactant | 5-(4-cyano-2-methylphenyl)hydantoin | 5.2 mmol, 1.1 g | C(#N)C1=CC(=C(C=C1)C1C(NC(N1)=O)=O)C | C11H9N3O2
reactant | acetic acid | 1.4 ml | C(C)(=O)O | C2H4O2
reactant | sodium hydroxide | 2M, 12 ml | [OH-].[Na+]
product | 2-(4-Carboxy-2-methylphenyl)glycine | C(=O)(O)C1=CC(=C(C=C1)C(N)C(=O)O)C | C10H11NO4
